US07579351B2
4-(1-Oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-8-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
To the solution of 0.5 g (2.5 mmol) 8-hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one (example 1, intermediate a)) in 10 mL tetrahydrofuran, 0.6 g (3.0 mmol) 1-(tert-butoxycarbonyl)-4-hydroxypiperidine and 0.78 g (3.0 mmol) triphenylphosphine were added. The solution was cooled to 0° C., 0.68 g (3.0 mmol) di-tert-butyl azodicarboxylate were added and the cooling bath was removed. After 18 hours the reaction mixture was evaporated and the residue was flash-chromatographed on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give 0.46 g (49%) of the desired compound as a white solid.

reactant | 8-hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 2.5 mmol, 0.5 g | OC1=CC=2C=C3N(C2C=C1)CCNC3=O | C11H10N2O2
reactant | 1-(tert-butoxycarbonyl)-4-hydroxypiperidine | 3.0 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 3.0 mmol, 0.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 3.0 mmol, 0.68 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(1-Oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-8-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.46 g, 49% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=2C=C3N(C2C=C1)CCNC3=O | C21H27N3O4
